US04436726
Hexadecanoic acid (1.92 g) and tert-butyl 3-hydroxyoctanoate (324 mg) was reacted to afford an oil of tert-butyl 3-hexadecanoyloxyoctanoate (620 mg) in the similar method to that of Preparation 1-(2).

reactant | Hexadecanoic acid | 1.92 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | tert-butyl 3-hydroxyoctanoate | 324 mg | OC(CC(=O)OC(C)(C)C)CCCCC | C12H24O3
product | tert-butyl 3-hexadecanoyloxyoctanoate | 620 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)OC(C)(C)C)CCCCC | C28H54O4
